US07723332B2
According to general procedure C, 4-Bromo-2,5-difluorobenzenesulfonyl chloride (0.20 g, 0.68 mmol) and isopropylamine were stirred together in dichloromethane (1 mL) for 16 hours. The reaction afforded 4-bromo-2,5-difluoro-N-isopropylbenzenesulfonamide (0.16 g) after purification. HPLC purity 96.6% at 210-370 nm, 10.7 min.; the Xterra® RP18 column, 3.5μ, 150×4.6 mm column, 1.2 mL/min., 85/15-5/95 (ammonium formate buffer pH=3.5/ACN+MeOH) for 10 min., hold 4 min. HRMS: calcd for C9H10BrF2NO2S−H+, 311.95109; found (ESI-FTMS, [M−H]1−), 311.95114

reactant | 4-Bromo-2,5-difluorobenzenesulfonyl chloride | 0.68 mmol, 0.20 g | BrC1=CC(=C(C=C1F)S(=O)(=O)Cl)F | C6H2BrClF2O2S
reactant | isopropylamine | C(C)(C)N | C3H9N
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | 4-bromo-2,5-difluoro-N-isopropylbenzenesulfonamide | 0.16 g | BrC1=CC(=C(C=C1F)S(=O)(=O)NC(C)C)F | C9H10BrF2NO2S
